US04273782
1-Ethoxycarbonylmethyl-3-(1-imidazolylmethyl)indole (0.98 g) was dissolved in ethanol (10 ml) and a solution of sodium hydroxide (0.25 g) in water (2 ml) was added. The mixture was heated under reflux for 2 hours and then evaporated. The residue was dissolved in 5 ml of water and the solution was just acidified with acetic acid. The solution was evaporated to dryness and the residue was stirred with a little water and the mixture was filtered to give 1-carboxymethyl-3-(1-imidazolylmethyl)indole, (0.65 g), m.p. 218°-220° C., raised to 223°-224° C. on crystallisation from water. Found: C, 65.47; H, 5.11; N, 16.19. C14H13N3O2 requires: C, 65.87; H, 5.13; N, 16.46.

reactant | 1-Ethoxycarbonylmethyl-3-(1-imidazolylmethyl)indole | 0.98 g | C(C)OC(=O)CN1C=C(C2=CC=CC=C12)CC=1NC=CN1 | C16H17N3O2
reactant | sodium hydroxide | 0.25 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 1-carboxymethyl-3-(1-imidazolylmethyl)indole | 0.65 g | C(=O)(O)CN1C=C(C2=CC=CC=C12)CC=1NC=CN1 | C14H13N3O2
